US04532367
2-chloro-6-methyl-4-(4'-chlorobenzyl)-phenol
178.1 g (1.25 mol) 2-chloro-6-methylphenol and 80.5 g (0.5 mol) 4-chlorobenzyl chloride are dissolved in 300 ml dry chloroform. 40 g water-free, finely mortared ZnCl2 are subsequentlyadded.

reactant | 2-chloro-6-methylphenol | 1.25 mol, 178.1 g | ClC1=C(C(=CC=C1)C)O | C7H7ClO
reactant | 4-chlorobenzyl chloride | 0.5 mol, 80.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | water | 40 g | O | H2O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 2-chloro-6-methyl-4-(4'-chlorobenzyl)-phenol | ClC1=C(C(=CC(=C1)CC1=CC=C(C=C1)Cl)C)O | C14H12Cl2O
